US04888025
Preparation of 1-(3'-methylamino-4'-nitrophenoxy)-3-succinimidopropan-2-ol
0.087 mol (19.5 g) of 1-(3'-methylamino-4'-nitrophenoxy)-2,3-epoxypropane is dissolved in 75 ml of absolute alcohol to which 6 drops of pyridine have been added. 0.10 mol (10.1 g) of succinimide is added and the mixture is then heated under reflux for 4 hours. The reaction mixture is filtered at the boil. On cooling of the filtrate, the expected product crystallises. After recrystallisation from alcohol and drying in vacuo, it melts at 152° C.

reactant | 1-(3'-methylamino-4'-nitrophenoxy)-2,3-epoxypropane | 0.087 mol, 19.5 g | CNC=1C=C(OCC2CO2)C=CC1[N+](=O)[O-] | C10H12N2O4
reactant | succinimide | 0.10 mol, 10.1 g | C1(CCC(N1)=O)=O | C4H5NO2
catalyst | pyridine | 6 drops | N1=CC=CC=C1 | C5H5N
product | 1-(3'-methylamino-4'-nitrophenoxy)-3-succinimidopropan-2-ol | CNC=1C=C(OCC(CN2C(CCC2=O)=O)O)C=CC1[N+](=O)[O-] | C14H17N3O6
